US04804668
Potasium hydroxide (1 g) was added to a stirred solution of methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate (2 g) in methanol (50 ml) at room temperature and the mixture was stirred at room temperature for 1.5 hours, diluted with water (150 ml), and washed with chloroform. Then the solution was adjusted to pH 3 to 4 by addition of 2N hydrochloric acid aqueous solution. The resulting precipitate was collected by filtration, and air-dried to give 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylic acid (1.8 g, 96%) as colorless powder.

reactant | Potasium hydroxide | 1 g | [OH-].[K+]
reactant | methyl 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylate | 2 g | CC=1N=C(SC1C1=CC=NC=C1)C(=O)OC | C11H10N2O2S
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 150 ml | O | H2O
product | 4-methyl-5-(4-pyridinyl)-thiazole-2-carboxylic acid | 1.8 g, 96% | CC=1N=C(SC1C1=CC=NC=C1)C(=O)O | C10H8N2O2S
